US06821967B2
9-{4-[4-(4-phenyl-quinolin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 21 from 9-(4-piperazin-1-yl-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-chloro-4-phenyl-quinoline.

reactant | 9-(4-piperazin-1-yl-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCNCC1)(F)F | C24H28F3N3O
reactant | 2-chloro-4-phenyl-quinoline | ClC1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C15H10ClN
product | 9-{4-[4-(4-phenyl-quinolin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1)(F)F | C39H37F3N4O
